US09289419B2
Synthesis of (S)-1-(methylsulfonyl)pyrrolidin-3-amine hydrochloride
4M HCl solution (in Dioxane) (2 mL) and (S)-tert-butyl (1-(methylsulfonyl)pyrrolidin-3-yl)carbamate (200 mg, 0.99 mmol) was stirred at 20-35° C. for 2 h. The solid precipitate thus obtained was filtered, washed with hexane and dried to afford 120 mg of the title compound.

reactant | HCl | 4M, 2 mL | Cl | ClH
reactant | (S)-tert-butyl (1-(methylsulfonyl)pyrrolidin-3-yl)carbamate | 0.99 mmol, 200 mg | CS(=O)(=O)N1C[C@H](CC1)NC(OC(C)(C)C)=O | C10H20N2O4S
product | (S)-1-(methylsulfonyl)pyrrolidin-3-amine hydrochloride | 120 mg | Cl.CS(=O)(=O)N1C[C@H](CC1)N | InChI=1S/C5H12N2O2S.ClH/c1-10(8,9)7-3-2-5(6)4-7;/h5H,2-4,6H2,1H3;1H/t5-;/m0./s1
